US07223788B2
6-(4-Fluorophenyl)-3-azabicyclo[4.1.0]heptane
Diethylzinc (1M in hexane, 19 ml) in dichloromethane (100 ml) was mixed with trifluoroacetic acid (3 ml) at 0° C. After 20 minutes, diiodomethane (3 ml) in dichloromethane (10 ml) was added. Then 4-(4-fluorophenyl)-1,2,3,6-tetrahydropyridine (3.0 g) in dichloromethane (10 ml) was added, and the mixture was stirred at room temperature overnight. After addition of hydrochloric acid (1N), the phases were separated and the organic phase was washed with water, dried over magnesium sulfate and concentrated. This resulted in the product with the molecular weight of 191.25 (C12H14FN); MS(ESI): 192 (M+H+).

reactant | Diethylzinc | 1M, 19 ml | C(C)[Zn]CC
reactant | trifluoroacetic acid | 3 ml | FC(C(=O)O)(F)F | C2HF3O2
reactant | diiodomethane | 3 ml | ICI | CH2I2
reactant | 4-(4-fluorophenyl)-1,2,3,6-tetrahydropyridine | 3.0 g | FC1=CC=C(C=C1)C=1CCNCC1 | C11H12FN
reactant | hydrochloric acid | 1N | Cl | ClH
solvent | dichloromethane | 100 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 10 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 10 ml | ClCCl | CH2Cl2
product | 6-(4-Fluorophenyl)-3-azabicyclo[4.1.0]heptane | FC1=CC=C(C=C1)C12CCNCC2C1 | C12H14FN
